US07144909B2
To a stirred mixture of methyl[3,5-dichloro-4-(4-benzylaminophenoxy)phenyl]acetate (0.36 g), triethylamine (0.10 g) and dichloromethane (40 mL) was added isobutyryl chloride (0.15 g). After 16 hours at room temperature, the reaction mixture was concentrated, and the residue partioned between ethyl acetate and water. The organic phase was washed with hydrochloric acid (1 N), a saturated aqueous solution of sodium hydrogencarbonate and brine. After concentration, the residue was purified on column (silica gel, petrolium ether/ethyl acetate, 4:1) to give, to give 0.40 g of methyl[3,5-dichloro-4-(4-(2-methylpropanoyl-benzylamino)phenoxy)phenyl]acetate.

reactant | methyl[3,5-dichloro-4-(4-benzylaminophenoxy)phenyl]acetate | 0.36 g | COC(CC1=CC(=C(C(=C1)Cl)OC1=CC=C(C=C1)NCC1=CC=CC=C1)Cl)=O | C22H19Cl2NO3
reactant | triethylamine | 0.10 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 0.15 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | methyl[3,5-dichloro-4-(4-(2-methylpropanoyl-benzylamino)phenoxy)phenyl]acetate | 0.40 g | COC(CC1=CC(=C(C(=C1)Cl)OC1=CC=C(C=C1)N(CC1=CC=CC=C1)C(C(C)C)=O)Cl)=O | C26H25Cl2NO4
